US06200999B1
1) 3-Hydroxy-4-methylisoxazole-5-carboxylic Acid
3-Ethoxy-4-methylisoxazole-5-carboxylic acid (15 g, 88 mmol) and 47% HBr (aq) (150 mL) was boiled under reflux for 6 h. The solution was cooled and crystalline title compound was collected by filtration (8.7 g, 69%): mp 257-259° C. The acidic filtrate was added water (100 mL), and extracted with diethyl ether (6×400 mL). The organic extracts were washed with brine (100 mL), dried (MgSO4) and concentrated in vacuo to give crude title compound (3.0 g, 24%). Overall yield of 93%. A mixture of the two crops were used in the next step.

reactant | 3-Ethoxy-4-methylisoxazole-5-carboxylic acid | 88 mmol, 15 g | C(C)OC1=NOC(=C1C)C(=O)O | C7H9NO4
solvent | HBr | 150 mL | Br | BrH
product | 3-Hydroxy-4-methylisoxazole-5-carboxylic Acid | 3.0 g, 24% | OC1=NOC(=C1C)C(=O)O | C5H5NO4
